US03960841
400 mg. of 3,18-bis)tetrahydropyranyloxy)-1,3,5(10)-estratrien-17-one is mixed, in 4 ml. of absolute THF, at 0° C. with 400 mg. of lithium tri-tert.-butoxyaluminum hydride and stirred for 30 minutes at room temperature. After the mixture has been poured into water, it is extracted with ether. The ether phase is washed neutral with water, dried, and evaporated. The residue of crude 3,18-bis(tetrahydropyranyloxy)-1,3,5(10)-estratrien-17β-ol is heated in 1 ml. of pyridine with 1 ml. of acetic anhydride for 30 minutes to 100° C. The mixture is then introduced into water, stirred for 45 minutes, extracted with ether, and washed neutral with water. After drying and evaporation, crude 3,18-bis(tetrahydropyranyloxy)-17β-acetoxy-1,3,5(10)-estratriene is obtained, which is heated to the boiling point in 4 ml. of methanol with 4 ml. of water and 0.4 g. of oxalic acid. After 1 hour, the mixture is taken up in ether, washed neutral with water, dried, and evaporated. After purification by chromatography over silica gel, 17β-acetoxy-1,3,5(10)-estratriene-3,18-diol is obtained.

reactant | 1,3,5(10)-estratrien-17-one | C[C@@]12C(CC[C@H]1[C@@H]1CCC=3C=CC=CC3[C@H]1CC2)=O | C18H22O
reactant | THF | C1CCOC1 | C4H8O
reactant | lithium tri-tert.-butoxyaluminum hydride | [H-].C(C)(C)(C)O[Al](OC(C)(C)C)OC(C)(C)C.[Li+]
reactant | oxalic acid | C(C(=O)O)(=O)O | C2H2O4
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
solvent | methanol | CO | CH4O
product | 17β-acetoxy-1,3,5(10)-estratriene-3,18-diol | C(C)(=O)O[C@@H]1[C@]2(CO)[C@@H](CC1)[C@@H]1CCC=3C=C(C=CC3[C@H]1CC2)O | C20H26O4
